US08183245B2
A stirred solution of 3-{6-[1-(azidomethyl)-2,2,2-trifluoroethoxy]pyrazin-2-yl}-5-(1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine (0.014 g, 0.034 mmol) and acetic acid (1.9 μL, 0.034 mmol) in methanol (0.4 mL) was sparged with nitrogen. To this solution was added a catalytic amount of Pd/C, and purged further with nitrogen. The resulting suspension was stirred under hydrogen (balloon pressure) for 2 h. The reaction mixture was filtered. To this solution was added di-tert-butyl dicarbonate (0.011 g, 0.051 mmol). After 1 h, the reaction mixture was concentrated to afford tert-butyl[3,3,3-trifluoro-2-({6-[5-(1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]pyrazin-2-yl}oxy)propyl]carbamate as a crude oil. LRMS (ESI) calculated for C22H22F3N7O3 [M+H]+, 490.2; found 490.1.

reactant | 3-{6-[1-(azidomethyl)-2,2,2-trifluoroethoxy]pyrazin-2-yl}-5-(1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 0.034 mmol, 0.014 g | N(=[N+]=[N-])CC(C(F)(F)F)OC1=CN=CC(=N1)C1=CNC2=NC=C(C=C21)C=2C=NNC2 | C17H12F3N9O
reactant | acetic acid | 0.034 mmol, 1.9 μL | C(C)(=O)O | C2H4O2
reactant | di-tert-butyl dicarbonate | 0.051 mmol, 0.011 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 0.4 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl[3,3,3-trifluoro-2-({6-[5-(1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]pyrazin-2-yl}oxy)propyl]carbamate | C(C)(C)(C)OC(NCC(C(F)(F)F)OC1=NC(=CN=C1)C1=CNC2=NC=C(C=C21)C=2C=NNC2)=O | C22H22F3N7O3
